US03957763
Following the procedure of Example 1, 1-bromo-3,7,9-trimethyl-2,6-decadiene and 7-hydroxy-chromane are reacted to form 7-(3,7,9-trimethyl-2,6-decadienyloxy)-chromane, nD20 = 1.5920.

reactant | 1-bromo-3,7,9-trimethyl-2,6-decadiene | BrCC=C(CCC=C(CC(C)C)C)C | C13H23Br
reactant | 7-hydroxy-chromane | OC1=CC=C2CCCOC2=C1 | C9H10O2
product | 7-(3,7,9-trimethyl-2,6-decadienyloxy)-chromane | CC(=CCOC1=CC=C2CCCOC2=C1)CCC=C(CC(C)C)C | C22H32O2
